US06177423B1
5-Acetamido-2-tert-butyloxy-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione
Pyrrolidine (0.85 g, 12.0 mmol) was added to 5-acetamido-2-tert-butyloxy-6-chloro benzo[de]isoquinoline-1,3-dione (0.30 g, 0.8 mmol, from Example P2). The solution was heated at 100° C. overnight followed by addition of water (10 mL). The precipitate was filtered to give 0.30 g of the title compound.

reactant | Pyrrolidine | 12.0 mmol, 0.85 g | N1CCCC1 | C4H9N
reactant | 5-acetamido-2-tert-butyloxy-6-chloro benzo[de]isoquinoline-1,3-dione | 0.8 mmol, 0.30 g | C(C)(=O)NC=1C(=C2C3=C(C(N(C(C3=CC=C2)=O)OC(C)(C)C)=O)C1)Cl | C18H17ClN2O4
solvent | water | 10 mL | O | H2O
product | 5-Acetamido-2-tert-butyloxy-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.30 g | C(C)(=O)NC=1C(=C2C3=C(C(N(C(C3=CC=C2)=O)OC(C)(C)C)=O)C1)N1CCCC1 | C22H25N3O4
